US06916827B2
1. (2-Pyrimidin-2-yl-imidazol-1-yl)-acetic Acid Methyl Ester
To a suspension of 2-(1H-imidazol-2-yl)-pyrimidine hydrochloride (1.4 g, 7.7 mmol) in THF (50 mL) is added 40% NaH in mineral oil (675 mg, 15.4 mmol), the mixture is stirred at room temperature for one hour, and bromoacetic acid methyl ester (1.3 g, 8.4 mmol) is added. The reaction mixture is stirred at ambient temperature overnight. After aqueous NH4Cl solution (50 mL) is added, the mixture is extracted with ethyl acetate (20 mL×6) and CH2Cl2 (10 mL×6). The organic extracts are combined, dried over Na2SO4, and concentrated. The resulting residue is purified on a silica gel column with 100:10:1 CH2Cl2/MeOH/NH4OH as eluent to yield the titled compound (650 mg).

reactant | 2-(1H-imidazol-2-yl)-pyrimidine hydrochloride | 7.7 mmol, 1.4 g | Cl.N1C(=NC=C1)C1=NC=CC=N1
reactant | NaH | [H-].[Na+]
reactant | bromoacetic acid methyl ester | 8.4 mmol, 1.3 g | COC(CBr)=O | C3H5BrO2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2-Pyrimidin-2-yl-imidazol-1-yl)-acetic Acid Methyl Ester | 650 mg | COC(CN1C(=NC=C1)C1=NC=CC=N1)=O | C10H10N4O2
